US06936632B2
d) Methyl 4-[2-(4-fluorophenyl)-6,7-dihydro-5H-pyrrolizin-1-yl]phenyl sulphone
Methyl 2-(4-fluorophenyl)-1-(4-methylsulphonylphenyl)-6,7-dihydro-5H-pyrrolizine-3-carboxylate (0.4 g, 0.96 mmol) is heated under reflux for 1 h in methanolic KOH (2 N, 9 ml, 1.01 g of KOH, 18 mmol). After cooling, water (20 ml) is added and the alkaline phase is rendered weakly acidic (pH 3) using HCl (conc. 25%). The deposited substance is extracted with ethyl acetate, and the ethyl acetate extract is dried using Na2SO4 sicc. and concentrated after filtering. After the removal of the solvent in vacuo, 0.4 g (75% GC) of residue remains. The CC purification is carried out on SiO2 using ethyl acetate as an eluent. The main fractions are concentrated in vacuo and the residue is recrystallized from diisopropyl ether:

reactant | Methyl 2-(4-fluorophenyl)-1-(4-methylsulphonylphenyl)-6,7-dihydro-5H-pyrrolizine-3-carboxylate | 0.96 mmol, 0.4 g | FC1=CC=C(C=C1)C=1C(=C2CCCN2C1C(=O)OC)C1=CC=C(C=C1)S(=O)(=O)C | C22H20FNO4S
reactant | KOH | 18 mmol, 2 N, 9 ml, 1.01 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | 20 ml | O | H2O
product | Methyl 4-[2-(4-fluorophenyl)-6,7-dihydro-5H-pyrrolizin-1-yl]phenyl sulphone | FC1=CC=C(C=C1)C=1C(=C2CCCN2C1)C1=CC=C(C=C1)S(=O)(=O)C | C20H18FNO2S
